US05260453
5,6-Dihydro-5,5-dimethyl-7-(pyrrolidin-1-yl)-7H-thieno [3,2-b]-pyran
A solution of 5,6-dihydro-5,5-dimethylthieno[3,2-b]pyran-7-one (1.0 g, 5,5 mmol), pyrrolidine (2.3ml, 27.4(mmol) sodium cyanoborohydride (0.345 g, 5.5 mmol) and 1N aqueous hydrochloric acid (5.5ml, 5.5 mmol) in methanol (15ml) was stirred at rt for 1 day. Additional sodium cyanoborohydride (0.345 g, 5.5 mmol) was added and the solution was stirred an additional 1 day; additional sodium cyanoborohydride (1.0 g, 15.9 mmol) was added again and the mixture stirred 5 additional days. The mixture was poured into water (100 ml) and extracted with dichloromethane. The dichloromethane solution was washed with water and dried over sodium sulfate. The solvent was evaporated in vacuo and the residue was purified by medium pressure chromatography using 2% methanol in dichloromethane as the eluant to give the product 0.70 g (54%) as a yellow solid; mp 49°-50° C.; IR(KBr): 2971, 1560 and 1394 cm-1 ; MS:m/z 238 (MH+); 1H NMR (CDCl3): δ 1.27(s,3H), 1.45(s3H), 1.80(m,4H), 1.91(m,2H), 2.76(m,4H), 4.09(m,1H), 6.57(d,J=5.4 Hz,1H), and 7.04(d,J=5.4 Hz,1H).

reactant | 5,6-dihydro-5,5-dimethylthieno[3,2-b]pyran-7-one | 5,5 mmol, 1.0 g | CC1(CC(C2=C(O1)C=CS2)=O)C | C9H10O2S
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | sodium cyanoborohydride | 5.5 mmol, 0.345 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | 5.5 mmol, 1N, 5.5ml | Cl | ClH
reactant | sodium cyanoborohydride | 5.5 mmol, 0.345 g | C(#N)[BH3-].[Na+]
reactant | sodium cyanoborohydride | 15.9 mmol, 1.0 g | C(#N)[BH3-].[Na+]
solvent | methanol | 15ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | 5,6-Dihydro-5,5-dimethyl-7-(pyrrolidin-1-yl)-7H-thieno [3,2-b]-pyran | 0.70 g, 54% | CC1(CC(C2=C(O1)C=CS2)N2CCCC2)C | C13H19NOS
